US05998463
EXAMPLE 12 5-Acetyl-1-methyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide.
Prepared as in Example 1 from 1-methyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-phenyl-benzamide. Purified by trituration in hexanes/ethyl acetate. mp 178-179° C.

reactant | 1-methyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)C)=O | C15H17NO5
reactant | 3-amino-N-phenyl-benzamide | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
product | 5-Acetyl-1-methyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)C)=O | C25H21N3O4
